US07807673B2
{3-[3-(2-Chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}amine (0.57 g, 1.68 mmol) and 2-thienylacetyl chloride (0.25 mL, 2.00 mmol) were stirred in THF (30 mL) and stirred for 16 h. Additional 2-thienylacetyl chloride was added until reaction was complete by LC/MS. The mixture was concentrated to dryness and partitioned between aqueous NaHCO3 (saturated) and DCM. The organic layers were concentrated and purified by column chromatography to afford N-{3-[3-(2-chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide as a yellow solid (0.69 g, 89%). ES-LC/MS m/z=460 [M+H]+.

reactant | {3-[3-(2-Chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}amine | 1.68 mmol, 0.57 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C)C=2C=C(C=CC2)N | C18H14ClN5
reactant | 2-thienylacetyl chloride | 2.00 mmol, 0.25 mL | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-{3-[3-(2-chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide | 0.69 g, 89% | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C24H18ClN5OS
